US06348474B1
Methyl 3-(2-chloro-4-ethylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a solution of methyl 3-(2-chloro-4-vinylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (230 mg, 0.67 mmol) in 1,4-dioxane (4.6 ml) was added platinum dioxide (23 mg) and the mixture was subjected to catalytic reduction at normal temperature. Six hours later, the reaction mixture was filtered through Celite and the filtrate was concentrated to give black crystals. The obtained crystals were subjected to flash silica gel chromatography (silica gel 40 ml, eluent: chloroform/ethyl acetate=5/1-4/1) and crystallized from diisopropyl ether to give the object compound (213 mg) as colorless crystals.

reactant | methyl 3-(2-chloro-4-vinylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 0.67 mmol, 230 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)C=C | C18H16ClN3O2
reactant | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
solvent | 1,4-dioxane | 4.6 ml | O1CCOCC1 | C4H8O2
catalyst | platinum dioxide | 23 mg | [Pt](=O)=O
product | Methyl 3-(2-chloro-4-ethylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 213 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)CC | C18H18ClN3O2
